US08202868B2
6-{3-[4-(2-tert-Butyl-6-cyclobutyl-pyrimidin-4-yl)-piperazin-1-yl]-propoxy}-pyrimidin-4-ol
1.5 g of 2-tert-Butyl-4-[4-(3-chloro-propyl)-piperazin-1-yl]-6-cyclobutyl-pyrimidine (4.27 mmol), 0.72 g of pyrimidine-4,6-diol (6.4 mmol) and 1.31 g of triethylamine in 30 ml of dimethylformamide were stirred for 16 h at 80° C. The mixture was extracted with water and ethyl acetate. The organic layer was dried over magnesium sulfate, filtered, and concentrated to dryness. The crude product was purified by chromatography on silica gel using dichloromethane-methanol (1-10%). Fractions containing the product were combined. The solvents were evaporated and the oily residue was treated with acetonitrile. The precipitate was collected by filtration and dried to yield 0.27 g of the title compound.

reactant | 2-tert-Butyl-4-[4-(3-chloro-propyl)-piperazin-1-yl]-6-cyclobutyl-pyrimidine | 4.27 mmol, 1.5 g | C(C)(C)(C)C1=NC(=CC(=N1)N1CCN(CC1)CCCCl)C1CCC1 | C19H31ClN4
reactant | pyrimidine-4,6-diol | 6.4 mmol, 0.72 g | N1=CN=C(C=C1O)O | C4H4N2O2
reactant | triethylamine | 1.31 g | C(C)N(CC)CC | C6H15N
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | 6-{3-[4-(2-tert-Butyl-6-cyclobutyl-pyrimidin-4-yl)-piperazin-1-yl]-propoxy}-pyrimidin-4-ol | 0.27 g | C(C)(C)(C)C1=NC(=CC(=N1)N1CCN(CC1)CCCOC1=CC(=NC=N1)O)C1CCC1 | C23H34N6O2
